US07119205B2
4-Hydroxy-3-[4-(5-hydroxypentyl)phenyl]-6-oxo-6,7-dihydrothieno[2,3-b]pyridine-5-carbonitrile
To a suspension of Pd (BaSO4) (15 mg) in toluene (2 mL) and methanol (1 mL), was added 4-hydroxy-3-[4-(5-hydroxy-pent-1-ynyl)-phenyl]-6-oxo-6,7-dihydro-thieno[2,3-b]pyridine-5-carbonitrile (50 mg) in a single portion. The reaction was purged with hydrogen, and stirred under atmosphere hydrogen at rt for 24 h. The mixture was filtered through celite, and rinsed with methanol. The filtrate was concentrated and purified via reverse phase HPLC to afford the titled compound. MS (ESI) m/e 353 (M−H)+; 1H NMR (500 MHz, DMSO-d6): δ 1.31–1.47 (m, 4H), 1.55–1.61 (m, 2H), 1.94 (t, J=7.64 Hz, 2H), 2.58 (t, J=7.64 Hz, 2H), 6.91 (s, 1H), 7.15 (d, J=8.11 Hz, 2H), 7.31 (d, J=8.11 Hz, 2H).

reactant | 4-hydroxy-3-[4-(5-hydroxy-pent-1-ynyl)-phenyl]-6-oxo-6,7-dihydro-thieno[2,3-b]pyridine-5-carbonitrile | 50 mg | OC=1C2=C(NC(C1C#N)=O)SC=C2C2=CC=C(C=C2)C#CCCCO | C19H14N2O3S
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
solvent | methanol | 1 mL | CO | CH4O
catalyst | Pd | 15 mg | [Pd] | Pd
product | 4-Hydroxy-3-[4-(5-hydroxypentyl)phenyl]-6-oxo-6,7-dihydrothieno[2,3-b]pyridine-5-carbonitrile | OC=1C2=C(NC(C1C#N)=O)SC=C2C2=CC=C(C=C2)CCCCCO | C19H18N2O3S
